US05246929
To a solution of (±)-2-(4-chlorophenyl)-3,4-dihydro-2H-1,4-benzothiazine (10.01 g, 0.038 mole) in pyridine (150 ml) is added (S)-N-(2-naphthalenesulfonyl)prolyl chloride (18.57 g, 0.057 mole), and the mixture is stirred at room temperature for 4 hours. To the reaction mixture is added ethyl acetate, and the mixture is washed with 5 % hydrochloric acid, water, aqueous sodium hydrogen carbonate solution, water and saline in this order, and the ethyl acetate layer is separated, dried over sodium sulfate and distilled to remove the solvent. The resulting caramel is subjected to silica gel column chromatography (hexane:ethyl acetate=5:1 - 3:1). From the fraction eluted first there is obtained (R)-2-(4-chlorophenyl)-4-[(S)-N-(2-naphthalenesulfonyl)prolyl]-3,4-dihydro-2H-1,4-benzothiazine (10.75 g, 51 %) as crystals. M.p. 147°-151° C.

reactant | (±)-2-(4-chlorophenyl)-3,4-dihydro-2H-1,4-benzothiazine | 0.038 mole, 10.01 g | ClC1=CC=C(C=C1)C1SC2=C(NC1)C=CC=C2 | C14H12ClNS
reactant | (S)-N-(2-naphthalenesulfonyl)prolyl chloride | 0.057 mole, 18.57 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1[C@H](C(=O)Cl)CCC1 | C15H14ClNO3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | (R)-2-(4-chlorophenyl)-4-[(S)-N-(2-naphthalenesulfonyl)prolyl]-3,4-dihydro-2H-1,4-benzothiazine | 10.75 g, 51 % | ClC1=CC=C(C=C1)[C@H]1SC2=C(N(C1)C([C@H]1N(CCC1)S(=O)(=O)C1=CC3=CC=CC=C3C=C1)=O)C=CC=C2 | C29H25ClN2O3S2
